US04604390
1-(2-Hydrazinoethyl)pyrrolidine
A mixture of 200 g of 85% hydrazine hydrate, 200 ml of water, 170 g of N-chloroethylpyrrolidine hydrochloride, and 70 g of potassium carbonate was boiled under reflux for seven hours. Sodium hydroxide (390 g) was added and the mixture was extracted with ether. The ethereal extract, dried and distilled, yielded the title compound, bp 107°-111° C. (18.5 mm).

reactant | hydrazine hydrate | 200 g | O.NN
reactant | N-chloroethylpyrrolidine hydrochloride | 170 g | Cl.ClCCN1CCCC1
reactant | potassium carbonate | 70 g | C([O-])([O-])=O.[K+].[K+]
reactant | Sodium hydroxide | 390 g | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 1-(2-Hydrazinoethyl)pyrrolidine | N(N)CCN1CCCC1 | C6H15N3
